US08614201B2
D: 6,11-Dihydro-5H-dibenzo[b,e]azepine-10-carboxylic acid methyl ester
A mixture of 10-bromo-6,11-dihydro-5H-dibenzo[b,e]azepine (0.008 mol), potassium acetate (4 g), Pd(OAc)2 (0.04 g) and 1,1′-(1,3-propanediyl)bis[1,1-d]phenyl-phosphine (0.16 g) in methanol (100 mL) and THF (100 mL) was placed in a pressure reactor and pressurized with CO gas up to 50 kg/square cm. The reaction mixture was heated at 125° C. for 16 hours, then cooled, filtered over dicalite, and the solvent was evaporated. The residue was partitioned between CH2Cl2 and water. The organic layer was dried over MgSO4, filtered, and the filtrate concentrated. The residue was purified by column chromatography over silica gel using CH2Cl2 as an eluent. The desired fractions were collected and the solvent was evaporated, yielding 1.86 g of the desired compound.

reactant | 10-bromo-6,11-dihydro-5H-dibenzo[b,e]azepine | 0.008 mol | BrC1=CC=CC2=C1CC1=C(NC2)C=CC=C1 | C14H12BrN
reactant | potassium acetate | 4 g | C(C)(=O)[O-].[K+]
reactant | methanol | 100 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.04 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6,11-Dihydro-5H-dibenzo[b,e]azepine-10-carboxylic acid methyl ester | 1.86 g | COC(=O)C1=CC=CC2=C1CC1=C(NC2)C=CC=C1 | C16H15NO2
